US08455499B2
Step 2: 5-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-2,2-dimethyl-pent-4-ynoic acid
To 5-(4-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-2,2-dimethyl-pent-4-ynoic acid ethyl ester (0.46 mmol) in MeOH and H2O was added lithium hydroxide, and the reaction was stirred at 60° C. overnight. The mixture was acidified and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound. Mass spec. data (M+H)=481.

reactant | 5-(4-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-2,2-dimethyl-pent-4-ynoic acid ethyl ester | 0.46 mmol | C(C)OC(C(CC#CC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)Cl)(C)C)=O | C28H29ClN2O5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | 5-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-2,2-dimethyl-pent-4-ynoic acid | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C#CCC(C(=O)O)(C)C)C | C26H25ClN2O5
